US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (1.00 g, 3.10 mmol) and t-butylisocyanate (0.31 g, 3.10 mmol) in THF (35 mL), was added triethylamine (0.88 mL, 6.20 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 18 h then cooled to rt. The mixture was filtered and the filtrate diluted with EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (100 mL), water (2×100 mL), dried (MgSO4) and concentrated. The crude product was purified by prep-HPLC (35/65 CH3CN/H2O). The product fractions were combined, concentrated and dried in vacuo to give 1-tert-butyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.40 g, 84% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 4.89 min (97.00%); mp: 202-204° C.; 1H NMR (DMSO-d6) δ 1.24 (s, 9H), 1.97-2.14 (m, 1H), 2.53-2.71 (m, 2H), 2.79-3.02 (m, 1H), 4.34 (d, J=5.9 Hz, 2H), 5.14 (dd, J=5.4, 12.9 Hz, 1H), 5.89 (s, 1H), 6.34 (t, J=6.0 Hz, 1H), 7.65-7.79 (m, 2H), 7.87 (d, J=7.7 Hz, 1H), 11.08 (s, 1H); 13C NMR (DMSO-d6) δ 22.0, 29.2, 30.9, 42.3, 48.9, 49.2, 121.4, 123.4, 129.5, 131.5, 133.0, 149.6, 157.3, 167.0, 167.2, 169.8, 172.7; Anal Calcd for C19H22N4O5+0.3H2O: C, 58.24; H, 5.81; N, 14.30. Found: C, 58.15; H, 5.52; N, 14.16.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.10 mmol, 1.00 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | t-butylisocyanate | 3.10 mmol, 0.31 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 6.20 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.40 g, 84% yield | C(C)(C)(C)NC(=O)NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O | C19H22N4O5
